US07465801B2
4-[2-(5-Ethyl-pyridin-2-yl)-2-hydroxy-ethoxy]-benzaldehyde (9a)
0.5 g (0.0023 mol) 5-ethyl-2-(2-oxo-[1,3,2]-dioxathiolan-4-yl)-pyridine was added into solution of 0.343 g (0.0027 mol) p-hydroxy benzaldehyde dissolved in 5 mL DMF. Reaction mixture was heated at 80° C. for 14 hr. Subsequent work up furnished 0.3 g (47%) the desired product.

reactant | 5-ethyl-2-(2-oxo-[1,3,2]-dioxathiolan-4-yl)-pyridine | 0.0023 mol, 0.5 g | C(C)C=1C=CC(=NC1)C1OS(OC1)=O | C9H11NO3S
reactant | p-hydroxy benzaldehyde | 0.0027 mol, 0.343 g | OC1=CC=C(C=O)C=C1 | C7H6O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-[2-(5-Ethyl-pyridin-2-yl)-2-hydroxy-ethoxy]-benzaldehyde | 0.3 g, 47% | C(C)C=1C=CC(=NC1)C(COC1=CC=C(C=O)C=C1)O | C16H17NO3
